US07538135B2
D. 3-Amino-1-ethyl-1H-pyrazole-4-carboxylic acid ethyl ester
To a solution of 3-amino-1H-pyrazole-4-carboxylic acid ethyl ester (5.0 g, 32 mmol) in acetonitrile is added sodium hydride (1.28 g, 32 mmol) at RT. After 30 min of stirring, a solution of ethyl iodide (2.57 ml, 32 mmol) in acetonitriloe is added dropwise. The reaction mixture is stirred at RT for 16 h. Water is added followed by anhydrous sodium sulfate. The mixture is filtered and concentrated at reduced pressure. The crude product is chromatographed on silica gel using 30% ethyl acetate in hexanes to provide a regioisomeric mixture of N-ethylated 3-amino-1H-pyrazole-4-carboxylic acid ethyl esters. This mixture is used in the following reaction step without further purification.

reactant | 3-amino-1H-pyrazole-4-carboxylic acid ethyl ester | 32 mmol, 5.0 g | C(C)OC(=O)C=1C(=NNC1)N | C6H9N3O2
reactant | sodium hydride | 32 mmol, 1.28 g | [H-].[Na+]
reactant | ethyl iodide | 32 mmol, 2.57 ml | C(C)I | C2H5I
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | Water | O | H2O
product | 3-Amino-1-ethyl-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NN(C1)CC)N | C8H13N3O2
